US05985935
To a solution of 6.9 g (50 mmol) of 2,4dihydroxybenzaldehyde in 100 ml of acetone was added 12 ml (120 mmol) of 3-bromopropene and 40 g of potassium carbonate and the mixture was refluxed for 3 h under stirring. The mixture was filtered and the filtrate concentrated in vacuo to give 10.2 g (93%) of 2,4diprop-2-enyloxybenzaldehyde as slightly reddish crystals.

reactant | 2,4dihydroxybenzaldehyde | 50 mmol, 6.9 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | 3-bromopropene | 120 mmol, 12 ml | BrCC=C | C3H5Br
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 2,4diprop-2-enyloxybenzaldehyde | 10.2 g, 93% | C(C=C)OC1=C(C=O)C=CC(=C1)OCC=C | C13H14O3
